US04086219
(j) D-Phenylalanyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride
A solution of 3.9 g. of Nα -benzyloxycarbonyl-D-phenylalanyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride in 100 ml. of methanol with 500 mg. of 20% palladium-on-carbon is stirred under hydrogen gas at slightly above atmospheric pressure for four hours. The solution is filtered and the filtrate is evaporated to dryness at 40° C. under reduced pressure to give a white foam suitable for use without further purification.

reactant | Nα -benzyloxycarbonyl-D-phenylalanyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | D-Phenylalanyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1 | InChI=1S/C28H45N9O5.ClH/c1-17(2)14-21(36-24(39)19(29)15-18-8-4-3-5-9-18)25(40)35-20(10-6-12-33-28(31)32)27(42)37-13-7-11-22(37)26(41)34-16-23(30)38;/h3-5,8-9,17,19-22H,6-7,10-16,29H2,1-2H3,(H2,30,38)(H,34,41)(H,35,40)(H,36,39)(H4,31,32,33);1H/t19-,20+,21+,22+;/m1./s1
